US09255090B2
To a solution under N2 of 8-(4-ethoxycarbonylmethyl-2-methoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (770 mg, 1.61 mmol, 1 eq.) in AcOEt (60 mL), palladium on activated carbon (10 wt. %, 80 mg) was added. The flask was evacuated and backfilled with H2 (3×). The black suspension was stirred at r.t. under an H2-atmosphere for 18 hours. The suspension was filtered through Celite, the Celite rinsed with AcOEt. The filtrate was concentrated in vacuo to give ethyl 2-(4-(5-fluoro-1,2,3,4-tetrahydroisoquinolin-8-yl)-3-methoxyphenyl)acetate as an yellow oil. The product was used without further purification.

reactant | 8-(4-ethoxycarbonylmethyl-2-methoxy-phenyl)-5-fluoro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 1.61 mmol, 770 mg, 1 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)F)C1=C(C=C(C=C1)CC(=O)OCC)OC | C28H28FNO5
solvent | AcOEt | 60 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on activated carbon | 80 mg | [Pd] | Pd
product | ethyl 2-(4-(5-fluoro-1,2,3,4-tetrahydroisoquinolin-8-yl)-3-methoxyphenyl)acetate | FC1=C2CCNCC2=C(C=C1)C1=C(C=C(C=C1)CC(=O)OCC)OC | C20H22FNO3
